US04937253
Preparation of 2-Hydroxy-3-[(2-carbomethoxyethyl)thio]-3-[2-(8-phenyloctyl)phenyl]propanoic acid.
A solution of methyl-3-mercaptopropionate (0.8 ml, 7.2 mmole) in tetrahydrofuran (3 ml) was added dropwise at -10° C. to a solution of n-butyllithium (3.2 ml, 2.5M in hexane) in tetrahydrofuran (10 ml) under an inert atmosphere. In a second flask, 2,3-epoxy-3-[2-(8phenyloctyl)phenyl]propanoic acid (1 gm, 2.84 mmole) was suspended in tetrahydrofuran (4 ml) and stirred at -10° C. under an inert atmosphere while a solution of titanium isopropoxide (2.2 ml, 7.15 mmole) in tetrahydrofuran (6 ml) was added dropwise keeping the internal temperature below 0° C. The resulting solution was again cooled to -10° C. and added via syringe to the above mercaptide solution, and the whole was subsequently stirred for 1 hour at 0° C. The reaction mixture was diluted with water, treated with 10% H2SO4 and extracted 3 times with ethyl acetate. The combined ethyl acetate extracts were washed with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated. Chromatography of the residue on silica gel using hexane-ethyl acetate-formic acid (65/35/0.5) yield the title compound. Anal.: Calcd for C27H36O5S 0.5 H2O: C, 67.33; H, 7.74. Found: C, 67.33; H, 7.46. 250 MHz NMR (CDCl3)δ1.28-1.68 (l2H,m) 2.50-2.92 (8H,m) 3.70 (3H,s) 4.62 (1H,d) 4.68 (1H,d) 7.10-7.60 (9H,m).

reactant | methyl-3-mercaptopropionate | 7.2 mmole, 0.8 ml | COC(CCS)=O | C4H8O2S
reactant | n-butyllithium | 2.5M, 3.2 ml | C(CCC)[Li]
reactant | 2,3-epoxy-3-[2-(8phenyloctyl)phenyl]propanoic acid | 2.84 mmole, 1 gm | O1C(C(=O)O)C1C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1 | C23H28O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | titanium isopropoxide | 7.15 mmole, 2.2 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 2-Hydroxy-3-[(2-carbomethoxyethyl)thio]-3-[2-(8-phenyloctyl)phenyl]propanoic acid | OC(C(=O)O)C(C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1)SCCC(=O)OC | C27H36O5S
